US04011319
A mixture of 20.0 g. (0.133 mol) of 4-methoxyphenylethylamine and 22.0 g. (0.133 mol) of methyl mandelate is heated at about 90° C. with stirring under nitrogen for 16 hours. The reaction mixture is taken up in ether and the product crystallized, giving N-[2-(4-methoxyphenyl)ethyl]mandelamide, m.p. 86°-88° C.

reactant | 4-methoxyphenylethylamine | 0.133 mol | COC1=CC=C(C=C1)CCN | C9H13NO
reactant | methyl mandelate | 0.133 mol | C(C(O)C1=CC=CC=C1)(=O)OC | C9H10O3
solvent | ether | CCOCC | C4H10O
product | N-[2-(4-methoxyphenyl)ethyl]mandelamide | COC1=CC=C(C=C1)CCNC(C(O)C1=CC=CC=C1)=O | C17H19NO3
